US05750764
Ethyl 2-hydroxy-2-(6-methoxynaphth-2-yl)propionate (5,0 g, 18,2 mmol), Dowex HCR-W2 strong acid exchange resin (0,50 g) and acetic anhydride (4,09 g, 40,1 mmol) were added to acetic acid (100 g) and refluxed for 7 hours, cooled and the resin was removed by filtration. Ethyl 2-(6-methoxynaphth-2-yl)acrylate was produced in 64,6% yield and could be used without purification.

reactant | Ethyl 2-hydroxy-2-(6-methoxynaphth-2-yl)propionate | 18,2 mmol, 5,0 g | OC(C(=O)OCC)(C)C1=CC2=CC=C(C=C2C=C1)OC | C16H18O4
reactant | acetic anhydride | 40,1 mmol, 4,09 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 100 g | C(C)(=O)O | C2H4O2
product | Ethyl 2-(6-methoxynaphth-2-yl)acrylate | 64,6% yield | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)OCC)=C | C16H16O3
